US07576215B2
2-{4-[({3-[3-BENZOYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}AMINO)METHYL]PHENYL}PROPANOIC ACID
The title compound was prepared from [4-(3-amino-phenyl)-8-trifluoromethyl-quinolin-3-yl]-phenyl-methanone and 2-(4-formyl-phenyl)-propionic acid methyl ester according to the procedure of Example 66. MS (ESI) m/z 555.

reactant | [4-(3-amino-phenyl)-8-trifluoromethyl-quinolin-3-yl]-phenyl-methanone | NC=1C=C(C=CC1)C1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C(=O)C1=CC=CC=C1 | C23H15F3N2O
reactant | 2-(4-formyl-phenyl)-propionic acid methyl ester | COC(C(C)C1=CC=C(C=C1)C=O)=O | C11H12O3
product | 2-{4-[({3-[3-BENZOYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}AMINO)METHYL]PHENYL}PROPANOIC ACID | C(C1=CC=CC=C1)(=O)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)NCC1=CC=C(C=C1)C(C(=O)O)C)C(F)(F)F | C33H25F3N2O3
